US04001426
When 3-p-methoxyphenylbenzofuran is acylated with 3,5-dimethylbenzoyl chloride as described in the procedure of Example 1, 3-p-methoxyphenyl-2-(3',5'-dimethylbenzoyl)benzofuran is obtained.

reactant | 3-p-methoxyphenylbenzofuran | COC1=CC=C(C=C1)C1=COC2=C1C=CC=C2 | C15H12O2
reactant | 3,5-dimethylbenzoyl chloride | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
product | 3-p-methoxyphenyl-2-(3',5'-dimethylbenzoyl)benzofuran | COC1=CC=C(C=C1)C1=C(OC2=C1C=CC=C2)C(C2=CC(=CC(=C2)C)C)=O | C24H20O3
